US04889866
To a solution of lithium diisopropylamide prepared from diisopropylamine (27.3 g) and n-butyl lithium (161.75 ml, 1.6M) in tetrahydrofuran (700 ml), was added a solution of (-)-methyl methoxyphenyl sulfoxide (20 g) in tetrahydrofuran (40 ml) at -20° C. After 15 minutes, ethyl acetate (22.8 g) was added and the mixture was allowed to reach room temperature. After quenching with NaH2PO4, the solvent was removed in vacuo and the residue was extracted with ether. The extract was purified by chromatography on silica gel (1:1 acetone/hexane) to give (-)-4-methoxyphenylsulfinylacetone, m.p. 56°-58° C., [α]D =-149.8° (C=0.032, methanol).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 27.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 161.75 ml | C(CCC)[Li]
reactant | (-)-methyl methoxyphenyl sulfoxide | 20 g | COC1=C(C=CC=C1)S(=O)C | C8H10O2S
reactant | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 22.8 g | C(C)(=O)OCC | C4H8O2
product | (-)-4-methoxyphenylsulfinylacetone | COC1=CC=C(C=C1)S(=O)CC(C)=O | C10H12O3S
